* Z:\home\agam\Github\EE2301\sims\sim2\Draft11.asc
* Generated by LTspice 24.1.7 for Windows.
Q1 N002 N003 N004 0 2N2222
C1 Vout N002 1µ
R1 Vout 0 10k
R2 N001 N002 2.2k
R3 N001 N003 56k
R4 N003 0 12k
R5 N004 0 750
C2 N003 0 1µ
V1 Vin 0 SINE(0 1m 10k) AC 1m
V2 N001 0 10
C3 N004 Vin 100µ
.model NPN NPN
.model PNP PNP
.lib C:\users\agam\AppData\Local\LTspice\lib\cmp\standard.bjt
* .ac dec 1000 1 1G
* .op
.tran 0 2m 1m 1u
.backanno
.end
