* Z:\home\agam\Github\EE2301\sims\sim1\diode.asc
* Generated by LTspice 24.1.7 for Windows.
D1 N001 N002 MMSD4148
V1 N001 0 5
R1 N002 0 100
.model D D
.lib C:\users\agam\AppData\Local\LTspice\lib\cmp\standard.dio
.dc V1 -5 5 0.1
.backanno
.end
