* Z:\home\agam\Github\EE2301\sims\sim1\mosfet.asc
* Generated by LTspice 24.1.7 for Windows.
M1 N001 N002 0 N003 NMOS l=1000nm w=1000nm
VGS N002 0 1.8
VDS N001 0 1.8
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\agam\AppData\Local\LTspice\lib\cmp\standard.mos
.dc VDS 0 1.8 0.1 VGS 0 1.8 0.2
.backanno
.end
