* Z:\home\agam\Github\EE2301\sims\sim3\mosfet_cd_ro.asc
* Generated by LTspice 24.1.7 for Windows.
M1 N001 N003 N004 N004 SIJA72ADP
V1 N001 0 5
R1 N001 N003 1k
R2 N003 0 1k
RS N004 0 1k
Cout Vout N004 220n
R4 Vout 0 1k
V2 N002 0 SINE(0 1m 10k) AC 1m
R5 Vin N002 1k
C1 N003 Vin 220n
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\agam\AppData\Local\LTspice\lib\cmp\standard.mos
.ac dec 1000 1 100G
* .op
* .tran 0 2m 1m 1u
.backanno
.end
