* Z:\home\agam\Github\EE2301\sims\sim3\mosfet_cs.asc
* Generated by LTspice 24.1.7 for Windows.
M1 N002 Vg Vs Vs SIJA72ADP
R1 N001 N002 80
V2 N003 0 SINE(0 1m 36k) AC 1m
R2 N001 Vg 100k
V1 N001 0 15
R3 Vout 0 100k
R4 Vs 0 1k
C2 Vs 0 20m
R5 Vg 0 115k
C3 Vg Vin 220n
R6 Vin N003 500
C1 Vout N002 220n
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\agam\AppData\Local\LTspice\lib\cmp\standard.mos
.ac dec 1000 1 1G
* .op
* .tran 0 50.5m 50m 0.1u
.backanno
.end
